US05070087
4[[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propyl]amino]benzeneacetic acid ethyl ester
A solution of 4.18 g (0.02 mole) of ethyl p-nitrophenylacetate in 200 mL of ethanol is subjected to catalytic hydrogenation. The mixture is filtered to remove the catalyst and the filtrate is concentrated to obtain quantitative yield of ethyl 4-aminophenylacetate. To an agitated solution of the ethyl 4-aminophenylacetate and 2.02 g (0.02 mole) of triethylamine in 50 ml of dimethylformamide is added dropwise a solution of 7.58 g (0.020 mole) of 1-(3-chloropropyl)-α,α-bis(4-fluorophenyl)-4-piperidinemethanol in 20 ml of dimethylformamide. After stirring at ambient temperature for 4 hr the reaction mixture is heated at 70° C. for 4 hr. The reaction mixture is concentrated and the crude product partitioned between methylene chloride and water. The methylene chloride solution is washed with water, dried over anhydrous magnesium sulfate, and concentrated to yield the title compound.

reactant | ethyl 4-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | 1-(3-chloropropyl)-α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.020 mole, 7.58 g | ClCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C21H24ClF2NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4[[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propyl]amino]benzeneacetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)NCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C31H36F2N2O3
